US03953499
A mixture of 45.5 g. of lithium acetylide-ethylene diamine, 200 ml. of dry tetrahydrofuran, and 200 ml. benzene at 35°C. is stirred under nitrogen while 50 g. of 4-decen-2-one in 50 ml. of benzene is added slowly. The mixture is then stirred for about 2.5 hrs., and 130 ml. of water is added slowly. The mixture is heated under reflux for one hour, cooled, and extracted with ether. The ether extract is washed with water, 1N hydrochloric acid, saturated aqueous sodium bicarbonate, and saturated aqueous sodium chloride, then is dried and evaporated under reduced pressure. The residue is distilled through a Vigreaux column giving a distillate comprising 3-hydroxy-3-methylundec-5-en-1-yne.

reactant | lithium acetylide ethylene diamine | [C-]#[C-].[Li+].[Li+].C(CN)N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 4-decen-2-one | CC(CC=CCCCCC)=O | C10H18O
solvent | water | O | H2O
product | 3-hydroxy-3-methylundec-5-en-1-yne | OC(C#C)(CC=CCCCCC)C | C12H20O
